US09227963B2
Benzyl 8-azaspiro[bicyclo[3.2.1]octane-3,2′-oxirane]-8-carboxylate
To a 500-mL, three-necked, round-bottomed flask equipped with a magnetic stirring bar, a thermometer, and a condenser was charged tetrahydrofuran (163 mL), potassium tert-butoxide (6.6 g, 95% pure) and trimethylsulfoxonium iodide (13.0 g). The mixture was heated to reflux and stirred for 3 hours. A solution of benzyl 3-oxo-8-azabicyclo[3.2.1]octane-8-carboxylate (10.0 g) in tetrahydrofuran (37 mL) was added in one portion. The reaction mixture was refluxed for another 2 hours. The mixture was cooled to room temperature and diluted with toluene (100 mL) and water. The water layer was separated and extracted with toluene (2×50 mL). The combined organic layers were washed with water (3×40 mL) and concentrated under vacuum to provide the title compound.

reactant | potassium tert-butoxide | 6.6 g | CC(C)([O-])C.[K+]
reactant | trimethylsulfoxonium iodide | 13.0 g | [I-].C[S+](=O)(C)C
reactant | benzyl 3-oxo-8-azabicyclo[3.2.1]octane-8-carboxylate | 10.0 g | O=C1CC2CCC(C1)N2C(=O)OCC2=CC=CC=C2 | C15H17NO3
solvent | tetrahydrofuran | 37 mL | O1CCCC1 | C4H8O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | tetrahydrofuran | 163 mL | O1CCCC1 | C4H8O
product | Benzyl 8-azaspiro[bicyclo[3.2.1]octane-3,2′-oxirane]-8-carboxylate | O1C2(C1)CC1CCC(C2)N1C(=O)OCC1=CC=CC=C1 | C16H19NO3
